US08097759B2
5-Chloro-N-[3-fluoro-5-(trifluoromethyl)phenyl]-2-hydroxybenzamide (Compound No. 110)
Using 5-chlorosalicylic acid and 3-fluoro-5-(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 3-fluoro-5-(trifluoromethyl)aniline | FC=1C=C(N)C=C(C1)C(F)(F)F | C7H5F4N
product | 5-Chloro-N-[3-fluoro-5-(trifluoromethyl)phenyl]-2-hydroxybenzamide | Yield: 62.0% | ClC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)F)C1)O | C14H8ClF4NO2
